US06258813B1
2.04 g of 3-chloromethyl-5-phenylpyridine (“A”) [obtainable for example by radical chlorination of 3-methyl-5-phenylpyridine] and 1.62 g of 1-phenylpiperazine are dissolved in 200 ml of acetonitrile and the mixture is stirred for six hours at room temperature. After customary work-up, 1-phenyl-4-[(5-phenyl-3-pyridyl)methyl]piperazine, m.p. 83-85°, is obtained.

reactant | 3-chloromethyl-5-phenylpyridine | 2.04 g | ClCC=1C=NC=C(C1)C1=CC=CC=C1 | C12H10ClN
reactant | 3-methyl-5-phenylpyridine | CC=1C=NC=C(C1)C1=CC=CC=C1 | C12H11N
reactant | 1-phenylpiperazine | 1.62 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-phenyl-4-[(5-phenyl-3-pyridyl)methyl]piperazine | C1(=CC=CC=C1)N1CCN(CC1)CC=1C=NC=C(C1)C1=CC=CC=C1 | C22H23N3
